US05149843
The ketone compound shown above [2-(1-methylethyl)-5,9,13-trimethyl-2,4,8,12-cyclotetradecatetraen-1-one] (137 mg, 0.48 mmol) was dissolved in dry toluene (2.5 ml). To the solution was added with stirring on a cold bath at -70° C. under argon atmosphere 1M solution of diisobutylaluminum hydride in toluene (0.6 ml). Disappearance of the starting material was confirmed 1 hour later, and the mixture was mixed with 0.25 ml of water. The bath was removed, and the mixture was stirred well, dried over anhydrous magnesium sulfate, stirred, and filtered. The filtrate was concentrated. The residue was chromatographed on a silica gel column (Eluent: n-hexane:ethyl acetate=12:1) to give sarcophytol A (125 mg, 88%).

reactant | 2-(1-methylethyl)-5,9,13-trimethyl-2,4,8,12-cyclotetradecatetraen-1-one | CC(C)C=1C(CC(=CCCC(=CCCC(=CC1)C)C)C)=O | C20H30O
reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | water | 0.25 ml | O | H2O
solvent | toluene | 2.5 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 0.6 ml | C1(=CC=CC=C1)C | C7H8
product | sarcophytol A | 125 mg, 88% | C/C/1=C\CC/C(=C/C=C(\[C@H](C/C(=C/CC1)/C)O)/C(C)C)/C | C20H32O
